US07851493B2
To a solution of 32 mg of 3-{2-methoxy-4-[4-methylsulfanylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one in 4 mL of dimethylformamide was added 15 mg of metachloroperbenzoic acid. The resulting mixture was stirred for 45 min at room temperature, then poured into water and extracted with dichloromethane. The organic extracts were washed with a saturated aqueous solution if sodium bicarbonate and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient of methanol in dichloromethane) to give 25 mg of 3-{4-[4-methanesulfinylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one as a white solid which was further purified by trituration with diisopropyl ether.

reactant | 3-{2-methoxy-4-[4-methylsulfanylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one | 32 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CSC)C1=NOC(N1)=O | C22H18F3N3O4S2
reactant | metachloroperbenzoic acid | 15 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-{4-[4-methanesulfinylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one | 25 mg | CS(=O)CC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O5S2
